US04436726
α-Hydroxypalmiticacid (3.2 g) was dissolved in pridine (15 ml), and palmitoyl chloride (3.3 g) was added thereto under stirring at 0° C. The resulting mixture was allowed to stand over night at room temperature. The reaction mixtue was poured into water and the aqueous solution was stirred at room temperature for 1 hour, followed by acidification with 1 N hydrochloric acid solution, and extraction with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated to give a residue which was recrystallized from petroleum ether to afford crystals of 2-hexadecanoyloxyhexadecanoic acid (5.4 g). M.p. 55° to 56° C.

reactant | α-Hydroxypalmiticacid | 3.2 g | OC(C(=O)O)CCCCCCCCCCCCCC | C16H32O3
reactant | water | O | H2O
solvent | palmitoyl chloride | 3.3 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
product | 2-hexadecanoyloxyhexadecanoic acid | 5.4 g | C(CCCCCCCCCCCCCCC)(=O)OC(C(=O)O)CCCCCCCCCCCCCC | C32H62O4
